US06548493B1
(±)-cis-3-(5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinolin-10(7aH)-yl)propyl 4-fluorophenyl ether
The title compound (0.14 g, 32%) was prepared by the general method of Example 402 from (±)-cis-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (0.25 g, 1.2 mmol), 1-(3-chloropropoxy)-4-fluorobezene (0.37 g, 2.0 mmol), KI (catalytic) and K2CO3 (0.28 g, 2.0 mmol) after chromatographic purification as a white amorphous solid. 1H NMR (CDCl3, 300 MHz) δ1.78-2.08 (m, 7H), 2.10-2.30 (m, 1H), 2.32-2.50 (m, 3H), 2.51-2.72 (m, 3H), 2.75-2.82 (m, 1H), 3.00-3.12 (m, 1H), 3.12-3.25 (m, 2H), 3.89 (t, J=6.3 Hz, 2H), 6.55 (t, J=7.5 Hz, 1H), 6.70-6.92 (m, 6H) ppm.

reactant | (±)-cis-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 1.2 mmol, 0.25 g | C1=CC=C2CCCN3C2=C1[C@@H]1[C@H]3CCNC1 | C14H18N2
reactant | 1-(3-chloropropoxy)-4-fluorobezene | 2.0 mmol, 0.37 g | ClCCCOC1=CC=C(C=C1)F | C9H10ClFO
reactant | K2CO3 | 2.0 mmol, 0.28 g | C(=O)([O-])[O-].[K+].[K+]
product | (±)-cis-3-(5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinolin-10(7aH)-yl)propyl 4-fluorophenyl ether | 0.14 g, 32% | FC1=CC=C(C=C1)OCCCN1C[C@H]2[C@H](N3CCCC4=CC=CC2=C34)CC1 | C23H27FN2O
